US07173031B2
B) (4-Chloro-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl)-triethylammonium bromide
A mixture of 5-bromomethyl-4-chloro-pyrrolo[2,1-f][1,2,4]triazine (2.7 g, 11 mmol), Et3N (5 mL, 36 mmol) in THF (20 mL) was stirred at rt for 12 h. The solid was filtered and rinsed with THF and Et2O, dried to give the desired product (3.38 g, 89%). Analytical HPLC retention time=0.776 min. (Chromolith SpeedROD 4.6×50 mm, 10–90% aqueous methanol over 4 minutes containing 0.1% TFA, 4 mL/min, monitoring at 220 nm); MS(ESI+) m/z 267 (M+H)+.

reactant | 5-bromomethyl-4-chloro-pyrrolo[2,1-f][1,2,4]triazine | 11 mmol, 2.7 g | BrCC=1C=CN2N=CN=C(C21)Cl | C7H5BrClN3
reactant | Et3N | 36 mmol, 5 mL | CCN(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (4-Chloro-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl)-triethylammonium bromide | 3.38 g, 89% | [Br-].ClC1=NC=NN2C1=C(C=C2)C[N+](CC)(CC)CC | InChI=1S/C13H20ClN4.BrH/c1-4-18(5-2,6-3)9-11-7-8-17-12(11)13(14)15-10-16-17;/h7-8,10H,4-6,9H2,1-3H3;1H/q+1;/p-1
